data/oMe_Silver.jsonl
{"reaction_id": "NR-202_1-C#CC_2-c1ccc2ccccc2c1_3-c1ccc(F)cc1","level": "medium","name": "Neber Rearrangement","reactants_smiles": ["C(C#CC)(c1ccc2ccccc2c1)C(=NOS(=O)(=O)c1ccc(C)cc1)c1ccc(F)cc1"],"products_smiles": ["c1ccc(F)cc1C(=O)C(C#CC)(c1ccc2ccccc2c1)N"],"conditions": "Base, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C-](C#CC)(c1ccc2ccccc2c1)C(=NOS(=O)(=O)c1ccc(C)cc1)c1ccc(F)cc1","step_weight": 0,"rationale": "The base abstracts the relatively acidic alpha-proton due to resonance stabilization of the resulting carbanion by the adjacent oxime group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(F)cc1C2=NC(C#CC)(c1ccc2ccccc2c1)2","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the oxime nitrogen intramolecularly, forming a strained azirine ring and displacing the tosylate, a good leaving group stabilized by resonance."},{"step": 3,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(c1ccc(F)cc1)2(C(C#CC)(c1ccc2ccccc2c1)[N-]2)O","step_weight": 0,"rationale": "Water adds to the electrophilic azirine carbon, driven by ring strain relief and polarization of the C–N bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)2(C(C#CC)(c1ccc2ccccc2c1)[NH]2)[O-]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to nitrogen stabilizes the intermediate, favored in aqueous medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(F)cc1C(C(C#CC)(c1ccc2ccccc2c1)[NH-])=O","step_weight": 0,"rationale": "Elimination of hydroxide from the intermediate occurs to form the carbonyl, driven by the stability of the ketone and the good leaving ability of hydroxide under these conditions."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(F)cc1C(=O)C(C#CC)(c1ccc2ccccc2c1)N","step_weight": 0,"rationale": "Final protonation of the nitrogen yields the neutral alpha-amino ketone, favored under aqueous conditions for product stability."}],"description": "Under basic aqueous conditions, the alpha-proton adjacent to the oxime tosylate is deprotonated, enabling intramolecular cyclization to an azirine via tosylate departure. Subsequent hydrolytic ring opening, proton transfers, and rearrangement yield the thermodynamically stable alpha-amino ketone."}
{"reaction_id": "NR-310_1-c1c2ccccc2ccc1_2-c1ccccc1_3-Cl_4-C(=O)OC_5-CC(=O)C_6-OP(=O)(OCC)OCC_7-P(c1ccccc1)(c1ccccc1)c1ccccc1","level": "medium","name": "Tsuji-Trost Reaction","reactants_smiles": ["c1c2ccccc2ccc1C(c1ccccc1)=C(Cl)C(C(=O)OC)(CC(=O)C)(OP(=O)(OCC)OCC)","N#CCC#N","[Pd]"],"products_smiles": ["c1c2ccccc2ccc1C(c1ccccc1)=C(Cl)C(C(=O)OC)(CC(=O)C)C(C#N)C#N"],"conditions": "Ligand, Base (e.g. NaH), Pd","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(c1c2ccccc2ccc1)(c1ccccc1)=C(Cl)C([Pd](OP(=O)(OCC)OCC)(P(c1ccccc1)(c1ccccc1)c1ccccc1)(P(c1ccccc1)(c1ccccc1)c1ccccc1))(C(=O)OC)(CC(=O)C)","step_weight": 0,"rationale": "Pd(0) coordinates to the allylic system and undergoes oxidative addition due to the good leaving group ability and stabilization of the resulting π-allyl–Pd(II) complex by conjugation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C#N)C#N","step_weight": 0,"rationale": "The base deprotonates malononitrile, as the α-proton is highly acidic due to strong electron-withdrawing cyano groups stabilizing the resulting carbanion."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "N#CC(C#N)C(C(=O)OC)(CC(=O)C)/C1(Cl)[Pd](P(c1ccccc1)(c1ccccc1)c1ccccc1)(P(c1ccccc1)(c1ccccc1)c1ccccc1)C1(c1ccccc1)(c1c2ccccc2ccc1)","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic π-allyl–Pd complex at the less hindered terminus, favored by orbital overlap and reduced steric hindrance."},{"step": 4,"type": "dissociation","subtype": "dissociation","intermediate_smiles": "c1c2ccccc2ccc1C(c1ccccc1)=C(Cl)C(C(=O)OC)(CC(=O)C)C(C#N)C#N","step_weight": 0,"rationale": "Product dissociates via reductive elimination, regenerating Pd(0) due to the thermodynamic stability of the C–C bond and the catalyst turnover requirement."}],"description": "In the Tsuji–Trost reaction, Pd(0) first undergoes oxidative addition to the allylic substrate, forming a π-allyl–Pd complex. The base deprotonates malononitrile to generate a stabilized nucleophile, which attacks the π-allyl complex. Reductive elimination releases the substituted product and regenerates Pd(0)."}
